Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I was sexually assaulted 2 months ago."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is an ___ year old ___ student with no reported 
past psychiatric history who was BIB EMS after an intentional 
overdose on Nyquil/Dayquil. 

She states she has been doing poorly since 2 months ago when she 
was sexually assaulted. She is hesitant to speak in detail about 
the assault, but states it occurred back in her home city, 
___, and she did not/does not want to report it. She states 
since the assault, she has been experiencing depressed mood, 
persistent flashbacks and nightmares, and continues to feel very 
guilty about the assault, stating she should have known better. 
She states she told one good friend about the assault as well as 
her therapist at ___ student ___. She does not want to
tell family, because she fears they will place blame on her/be 
disappointed in her. 

About a month ago she moved to ___ to start her freshman year 
at ___, which has also been stressful and has contributed 
further to her depressed mood. She states she has struggled to 
make friends and the school environment is very competitive. She 
notes that she has been coming to the realization that she may 
not want to pursue a career in music, which distresses her 
because she has focused all her attention on music since she was 
___ years old and feels she doesn't have any other skills. She 
also feels it would disappoint her parents, as her 
accomplishments in music have made them very proud of her.

She states in the past 2 months in the setting of these 
psychosocial stressors, she has had intermittent thoughts of 
death, thinking it would be easier if she were dead. She denies 
having any suicide plan until today. She describes having a  
very
difficult lesson with her instructor who pointed out several 
holes in her technique. She states she returned to her dorm 
room, freaking out. In this setting, she began having thoughts 
of overdosing on medication. She states the only thing available 
to
her was Nyquil/Dayquil from a recent cold she had. She states 
she took 16 pills of this medication all at once. After 
ingestion, she began hyperventilating and felt shaky, but 
eventually became calm and drowsy and fell asleep. She states 
she awoke soon after feeling nauseated and vomited twice. It was 
then that she realized she should probably go to the hospital 
and notified her RA who called EMS. 

She states prior to the past 2 months, she has been relatively 
stable from a psychiatric perspective. She describes herself as 
emotional and "up and down" but has never received mental health 
services or been given any diagnoses. 

In regards to the sexual assault, she states she made a 
gynecology appointment afterward and got an exam and was tested 
for STDs. 

REVIEW OF SYSTEMS:
-Psychiatric: 
---Depression: endorses depressed mood, fatigue/loss of energy, 
anhedonia, thoughts of death/SI, sleep disturbance including 
insomnia (trouble falling asleep, frequent awakenings), loss of 
appetite with recent weight loss, poor concentration.

---Anxiety: Endorses some anxiety, particularly about school

---Mania: Denies symptoms of mania such as erratic/risky 
behavior, grandiosity, flight of ideas, increased activity, 
decreased need for sleep, or talkativeness.  

---Psychosis: Denies symptoms of psychosis such as auditory or 
visual hallucinations, and paranoia.

-General: Describes a sore throat and feeling slightly "hung 
over". Otherwise denies. 

COLLATERAL:
Mother, Ms. ___ (___) Informed mom of 
patient's presentation in the ED and events leading to 
presentation. Did not disclose info about sexual assault, at 
patient's request. Mom is booking a flight to ___ from ___ 
today.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
-Prior diagnoses: denies
-Hospitalizations:denies
-Psychiatrist: denies ever seeing a psychiatrist 
-Therapist: ___ at ___ Counseling
-Medication trials: denies
-Suicide attempts: denies
-Self-injurious behavior: denies 
-Trauma: describes dad as alcoholic and verbally abusive
throughout her life; also describes recent sexual assault, as 
per
HPI

PAST MEDICAL HISTORY:
-Follows with a PCP in gynecologist in ___, does not have 
medical providers in ___.
-Denies any active medical problems
-Denies history of head trauma, seizure.
 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
-Psychiatric Diagnoses: denies, though notes that father may be 
undiagnosed bipolar disorder
-Substance Use Disorders: father-alcohol use disorder
-Suicide Attempts/Completed Suicides: denies, though father has 
made several suicide threats 

 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION
VS: T: 98.6, BP: 106/68, HR: 86, R:16 , O2 sat: 99% on RA
General: ___ year old female in NAD. Well-nourished,
well-developed. Appears younger than stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: No rashes, abrasions, scars, or lesions.
Neurological:
Cranial Nerves:
-Pupils symmetry and responsiveness to light and accommodation:
PERRLA
-Visual fields: full to confrontation
-EOM: full
-Facial sensation to light touch in all 3 divisions: equal
-Vacial symmetry on eye closure and smile: symmetric
-Hearing bilaterally to rubbing fingers: normal
-Phonation: normal
-Shoulder shrug: intact
-Tongue: midline
Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. 
Coordination: Normal on finger to nose test. DTRs: 2+ and 
symmetrical
throughout. Sensation: Intact to light touch throughout. 
Gait: Steady. Normal stance and posture. No truncal ataxia. 
Romberg: Negative.

Cognition: 
Wakefulness/alertness: awake and alert
Attention: intact to interview
Orientation: oriented to person, time, place, situation
Executive function (go-no go, Luria, trails, FAS): not tested
Memory: intact to recent and past history
Fund of knowledge: consistent with education
Calculations: not assessed
Abstraction: not assessed
Visuospatial: not assessed
Speech: normal rate, volume, and tone
Language: native ___ speaker, no paraphasic errors, 
appropriate to conversation

Mental Status:
Appearance: No apparent distress, appears stated age, well
groomed, appropriately dressed
Behavior: Calm, cooperative, engaged, friendly, pleasant,
appropriate eye contact, no psychomotor agitation or retardation
Mood and Affect: "Better than before." / euthymic, full range,
appropriate to situation, congruent with mood
Thought Process: linear, coherent, goal-oriented. No LOA.
Thought Content: denies SI/HI/AH/VH, no evidence of delusions or
paranoia
Judgment and Insight: impaired/impaired

PHYSICAL EXAMINATION ON DISCHARGE
Vitals: 98.2 PO, 110 / 74, 96, 16, 99%
Appearance: Appears stated age, dressed casually, in no acute 
distress, good hygiene and grooming
Behavior: calm, cooperative, no psychomotor agitation or 
retardation noted. Good eye contact.
Speech: normal rate, volume, prosody 
Mood: "I'm ready to go" 
Affect: Bright, mood congruent, appropriate
Thought Content: No suicidal thinking, or thoughts of self harm. 
No AVH. No violent ideation.
Thought process: linear, goal and future oriented
Cognition: awake, alert, responds to questions appropriately
Insight and Judgement: fair/fair  
 
Pertinent Results:
___  
WBC: 10.3*Hgb: 13.9 Hct: 40.___
 
Glucose: 98 UreaN: 13 Creat: 0.9 Na: 142K: 4.5 Cl: 103 HCO3: 22 
AnGap: 17 

ALT: 13 AST: 17 AlkPhos: 59 TotBili: 0.5 

ASA: NEG Ethanol: NEG Acetmnp: 64* Bnzodzp: NEG Barbitr: NEG 
Tricycl: NEG 

URINE bnzodzp: NEG barbitr: NEG opiates: NEG cocaine: NEG 
amphetm: NEG oxycodn: NEG mthdone: NEG 

UCG: NEGATIVE 
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, Ms. ___ signed a conditional voluntary 
agreement (Section 10 & 11) and that legal status remained in 
place throughout admission.  Ms. ___ was also placed 
on 15 minute checks status on admission and remained on that 
level of observation throughout while being unit restricted.

2. PSYCHIATRIC:
#) Ms. ___ is an ___ yo F with history of episodic low 
moods interspersed with likely hypomanic episodes who presented 
following a suicide attempt by overdose on Dayquil and Nyquil. 
She relates having intermittent suicidal ideation for many years 
but had never shared this with anyone. She had largely isolated 
childhood due to practicing ___ and father with alcoholism 
and possibly undiagnosed mood disorder. Her presentation was in 
the setting of recent alleged sexual assault 2 months ago with 
ongoing symptoms of recurrent nightmares and hyper-vigilance. 
Additionally, her transition to ___ has not 
gone well due to feelings of inadequacy, low motivation and 
decreased interest in violin, leading to uncertainty in whether 
she would like to return to school. Diagnostically, the picture 
is concerning for a bipolar affective disorder (type II,) and 
PTSD, although MDD is possible. The patient was started on 
prazosin 1mg QHS for nightmares, which improved her sleep 
symptoms. Her mood symptoms improved significantly during her 
admission. She reported significant improvement in her suicidal 
thinking, during her admission, and denied suicidal thoughts or 
thoughts of self harm on discharge.  As an outpatient her 
possible mood disorder should be further assessed. Of note, a 
trial of lamotrigine for mood lability was discussed; patient 
expressed interest in starting this medication as an outpatient. 
She is being discharged back home to ___ and follow up 
appointments were scheduled there with the ___. 
Additionally, she provided verbal and written permission to 
contact her pediatrician Dr. ___ who has been 
contacted. 

On discharge, patient exhibited mood congruent bright and 
euthymic affect, linear thought process, and thought content 
absent for suicidal ideation or thoughts of self-harm. 

3. SUBSTANCE USE DISORDERS:
Ms. ___ does not have any substance use disorders, and 
therefore did not require any counseling or treatment in this 
regard.

4. MEDICAL
Patient was medically cleared in the ED; of note, her initial 
serum APAP level was 64 and did not require treatment with 
N-acetylcystine. No indication for serial APAP measurements. 
Additionally, Ms. ___ has no chronic medical issues 
requiring attention.

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
Ms. ___  was encouraged to participate in the various 
groups and milieu therapy opportunities offered by the unit.  
The occupational therapy and social work groups that focus on 
teaching patients various coping skills. Ms. ___ often 
attended these groups.  Ms. ___ was visible on the 
milieu and appropriately interacted with staff and peers.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Ms. ___ gave verbal permission for the team to contact 
her outpatient therapist, ___ at ___ Student 
Counseling, who was contacted on admission. Ms. ___ 
did not have an outpatient psychiatrist/therapist while 
admitted, but was referred to the ___ clinic at discharge. 

Ms. ___ gave verbal permission for the team to contact 
her Parents, who were also given an update on Ms. 
___ progress while admitted and discharge plan. 

Ms. ___ provided verbal and written permission to 
contact the ___ clinic, with whom she has follow up as an 
outpatient. Additionally, she provided verbal and written 
permission to contact her pediatrician Dr. ___ who 
has been contacted, and updated with the patients presentation 
and discharge planning information. 

6. INFORMED CONSENT: 
Medication: Medication: Minipress (prazosin)
---Benefits: Treatment of nightmares
---Adverse effects: Dizziness, lightheadedness, headache, 
fatigue, blurred vision, nausea, orthostatic hypotension, 
syncope with sudden loss of consciousness

Ms. ___ was informed of alternative treatments, the 
consequences of no treatment, and the expected duration of 
treatment. She appeared to appreciate the information conveyed 
in the consent process by asking appropriate questions, which 
were answered by the treatment team, and expressing 
understanding of the potential risks and benefits (see above).  
Prior to starting treatment, the team also discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment.  Ms. ___ understood the above and 
consented to begin the medication.

7. RISK ASSESSMENT
On presentation, Ms ___ was evaluated and felt to be 
at an increased risk of harm to herself.  Ms. ___ 
static risk factors noted at that time include chronic mental 
illness, history of trauma, family history of mental illness and 
substance use, Caucasian ethnicity, recent suicide attempt.  The 
modifiable risk factors identified were as such: suicidal 
ideation with plan, lack of outpatient psychiatrist, feelings of 
hopelessness and worthlessness, decreased slef-esteem, acutely 
stressful events, limited coping skills . These modifiable risk 
factors were addressed with acute stabilization in a safe 
environment on a locked inpatient unit, psychopharmacologic 
adjustments, psychotherapeutic interventions (OT groups, SW 
groups, individual therapy meetings with psychiatrists), and 
presence on a social milieu environment.  Ms. ___ is 
being discharged with many protective factors, including female 
gender, lack of suicidal ideation, future oriented viewpoint, no 
chronic substance use, pets, help seeking, and a  strong support 
system.  Overall, based on the totality of our assessment at 
this time, Ms. ___ is not at an acutely elevated risk 
of harm to self nor danger to others. 

Our prognosis of this patient is good/fair.

Ms. ___ demonstrated preserved capacity to engage in a 
meaningful conversation regarding safety planning in the event 
of worsening symptoms of depression or re-emergence of suicidal 
ideation/thoughts of self-harm. 

 
Medications on Admission:
Oral Contraceptive
 
Discharge Medications:
1.  Prazosin 1 mg PO QHS insomnia/PTSD 
 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Post Traumatic Stress Disorder
Bipolar Spectrum Disorder (type II)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___